US07550629B2
B. 4-Chloro-3-methylsulfanyl-benzenesulfonyl chloride
To a mixture of 4-chloro-3-methylsulfanyl-benzenesulfonic acid (24 mmol) in anhydrous toluene (100 mL) at 0° C. was added thionyl chloride (2.62 mL, 36 mmol). The ice bath was removed and the reaction heated to 85° C. for 5 h, then 70° C. for 18 h. Unreacted starting material was still present by LC-MS and thionyl chloride (5 mL) was added and the reaction stirred for 18 hours at 70° C. The solvent was removed to give a black oil (470 mg, 8%) that was used as is in the next reaction.

reactant | 4-chloro-3-methylsulfanyl-benzenesulfonic acid | 24 mmol | ClC1=C(C=C(C=C1)S(=O)(=O)O)SC | C7H7ClO3S2
reactant | thionyl chloride | 36 mmol, 2.62 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-3-methylsulfanyl-benzenesulfonyl chloride | 470 mg, 8% | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)SC | C7H6Cl2O2S2
